* source KC_INPUT_VAS_SPICE
R_R1         N00464 N00448  1k TC=0,0 
R_R2         N00472 N00448  1k TC=0,0 
R_R3         N00286 N00484  10 TC=0,0 
R_R4         N00286 N00488  10 TC=0,0 
R_R5         N00274 0  10k TC=0,0 
R_R6         N00282 N00321  100 TC=0,0 
Q_Q1         N00286 N00274 N00282 Q2SC1815
Q_Q2         N00274 N00282 N00321 Q2SC1815
V_V1         0 N00321 DC 30v  
V_V2         N00448 0 DC 30v  
X_U1         N00464 N00598 N00484 N00488 N00628 N00472 MAT02 
V_V3         N00598 0  AC 0
+SIN 0 0.001 1K 0 0 0
Q_Q3         N00448 N00472 N01376 Q2SC1815
Q_Q4         N00448 N00464 N01372 Q2SC1815
I_I1         N01376 0 DC 0.0005Adc  
I_I2         N01372 0 DC 0.0005Adc  
Q_Q5         N02506 N02056 N02070 Q2SC3429 
Q_Q6         N02728 N02056 N02083 Q2SC3429 
R_R7         N00321 N02070  200 TC=0,0 
R_R8         N00321 N02083  200 TC=0,0 
R_R9         N02056 N02070  2k TC=0,0 
R_R10         N02709 N02345  10 TC=0,0 
R_R11         N02713 N02345  10 TC=0,0 
R_R12         N02345 N00448  100 TC=0,0 
Q_Q7         N02056 N02518 N02506 Q2SA1015
R_R13         N02518 0  2k TC=0,0 
Q_Q8         N02506 N01376 N02709 Q2SA921
Q_Q9         N02728 N01372 N02713 Q2SA921
Q_Q12         N04661 N04469 N04503 Q2SC3429 
R_R17         N04749 N04597  10 TC=0,0 
Q_Q15         N04661 N04329 N04749 Q2SA921
Q_Q16         N04773 N04323 N04755 Q2SA921
R_R15         N04513 N04517  200 TC=0,0 
R_R19         N04597 N04303  100 TC=0,0 
R_R16         N04469 N04503  2k TC=0,0 
R_R18         N04755 N04597  10 TC=0,0 
Q_Q10         N04303 N05703 N04329 Q2SC1815
Q_Q14         N04469 N04669 N04661 Q2SA1015
Q_Q13         N04773 N04469 N04517 Q2SC3429 
R_R14         N04513 N04503  200 TC=0,0 
R_R20         N04669 0  2k TC=0,0 
I_I4         N04323 0 DC 0.005Adc  
I_I3         N04329 0 DC 0.005Adc  
Q_Q11         N04303 N05223 N04323 Q2SC1815
V_V4         N04303 0 DC 25v  
V_V5         0 N04513 DC 25v  
V_V8         N05703 0  AC 0
+SIN 20 0.01 1K 0 0 0
V_V9         N05223 0  AC 0
+SIN 20 0.01 1K 0 0 180
R_R21         N04773 0  50 TC=0,0 
D_D1         0 N04661 D1N4154_1 
R_R22         N02728 0  50 TC=0,0 
D_D2         0 N02506 D1N4154_1 
V_V6         N00628 0  AC 0
+SIN 0 0.001 1K 0 0 180
